US06211234B1
A mixture of ethyl (RS)-4-(5-benzyloxy-2-formylphenoxy)-4-(2-methylphenyl)butanoate (0.49 g), hydroxylamine hydrochloride (0.1 g) and pyridine (0.1 g) in ethanol (10 mL) is heated at reflux for 1 hour. The solvent is then removed in vacuo and the residue is partitioned between water (50 mL) and ethyl acetate (50 mL). The aqueous layer is extracted with ethyl acetate (2×50 mL) and the combined organic extracts are washed with brine (50 mL), dried over magnesium sulphate and filtered and the solvent is removed in vacuo, to give a yellow oil. Flash chromatography on silica gel, eluting with a mixture of petroleum ether (b.p.40-60° C.) and ethyl acetate (7:1 v/v), gives ethyl (RS)-4-(5-benzyloxy-2-hydroxyiminomethylphenoxy)-4-(2-methylphenyl)butanoate (E:Z ratio 4:1), (0.24 g).

reactant | ethyl (RS)-4-(5-benzyloxy-2-formylphenoxy)-4-(2-methylphenyl)butanoate | 0.49 g | C(C1=CC=CC=C1)OC=1C=CC(=C(OC(CCC(=O)OCC)C2=C(C=CC=C2)C)C1)C=O | C27H28O5
reactant | hydroxylamine hydrochloride | 0.1 g | Cl.NO
reactant | pyridine | 0.1 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl (RS)-4-(5-benzyloxy-2-hydroxyiminomethylphenoxy)-4-(2-methylphenyl)butanoate | 0.24 g | C(C1=CC=CC=C1)OC=1C=CC(=C(OC(CCC(=O)OCC)C2=C(C=CC=C2)C)C1)C=NO | C27H29NO5
